US07459472B2
2-(S)-[(4-Acetoxy-4′-trifluoromethyl-biphenyl-3-carbonyl)-amino]-3-(3′-chloro-4′-fluoro-biphenyl-4-yl)-propionic acid methyl ester (278 mg) was prepared from acetic acid 3-chlorocarbonyl-4′-trifluoromethyl-biphenyl-4-yl ester (171 mg, 0.5 mmol) and 2-(S)-amino-3-(3′-chloro-4′-fluoro-biphenyl-4-yl)-propionic acid methyl ester (155 mg, 0.5 mmol) following the general procedure M.

reactant | acetic acid 3-chlorocarbonyl-4′-trifluoromethyl-biphenyl-4-yl ester | 0.5 mmol, 171 mg | ClC(=O)C=1C=C(C=CC1OC(C)=O)C1=CC=C(C=C1)C(F)(F)F | C16H10ClF3O3
reactant | 2-(S)-amino-3-(3′-chloro-4′-fluoro-biphenyl-4-yl)-propionic acid methyl ester | 0.5 mmol, 155 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC(=C(C=C1)F)Cl)N)=O | C16H15ClFNO2
product | 2-(S)-[(4-Acetoxy-4′-trifluoromethyl-biphenyl-3-carbonyl)-amino]-3-(3′-chloro-4′-fluoro-biphenyl-4-yl)-propionic acid methyl ester | 278 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC(=C(C=C1)F)Cl)NC(=O)C=1C=C(C=CC1OC(C)=O)C1=CC=C(C=C1)C(F)(F)F)=O | C32H24ClF4NO5
